US05760032
2-Acetyl-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (1.0 g) synthesized by the method described in Artneim.-Forsch./Drug Res. 28 (II), Heft 7, 1153-1158 (1978) was added to a 10% aqueous sodium hypochlorite solution (21 ml), and the mixture was stirred at 60° C. for 1.5 hours. Sodium hydrogensulfite (2.9 g) was added to the reaction mixture. Then, an aqueous citric acid solution was added to adjust the reaction mixture to pH 3. The obtained crystals were collected by filtration, and washed with water to give 0.5 g of (4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-2-yl)carboxylic acid.

reactant | 2-Acetyl-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 1.0 g | C(C)(=O)C1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)Cl | C17H13ClN4OS
reactant | sodium hypochlorite | 21 ml | Cl[O-].[Na+]
reactant | Sodium hydrogensulfite | 2.9 g | S(=O)(O)[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-2-yl)carboxylic acid | 0.5 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C(=O)O)C(=NN2)C | C16H11ClN4O2S
